US05304563
Methyl 2-[3-chloro-4-(quinolin-2-yl-methoxy)phenyl]acetate
The title compound is prepared in analogy to the procedure of Example XIV from 5.3 g (0.03 mol) of 2-chloromethylquinoline, 6 g (0.03 mol) of methyl 3-chloro-4-hydroxyphenylacetate and 1.2 g (0.03 mol) of sodium hydroxide.

reactant | 2-chloromethylquinoline | 0.03 mol, 5.3 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | methyl 3-chloro-4-hydroxyphenylacetate | 0.03 mol, 6 g | ClC=1C=C(C=CC1O)CC(=O)OC | C9H9ClO3
reactant | sodium hydroxide | 0.03 mol, 1.2 g | [OH-].[Na+]
product | Methyl 2-[3-chloro-4-(quinolin-2-yl-methoxy)phenyl]acetate | ClC=1C=C(C=CC1OCC1=NC2=CC=CC=C2C=C1)CC(=O)OC | C19H16ClNO3
